US09359359B2
To a solution of 8-(4-chloro-3-(trifluoromethyl)phenoxy)-7-(4-chlorobenzyl)-3-methyl-1-(2-(2-(tetrahydro-2H-pyran-2-yloxy)ethoxy)ethyl)-1H-purine-2,6(3H,7H)-dione (100 mg, 0.15 mmol) in ethanol (5 mL) was added acetyl chloride (0.2 mL) at 0° C. The mixture was stirred at room temperature for 1 h. The mixture was partitioned between ethyl acetate and water. The organic phase was dried over sodium sulfate, filtered and concentrated to give a crude product, which was purified via preparative HPLC to give 8-(4-chloro-3-(trifluoromethyl)phenoxy)-7-(4-chlorobenzyl)-1-(2-(2-hydroxyethoxy)ethyl)-3-methyl-1H-purine-2,6(3H,7H)-dione (37 mg, 43.1% yield) as white solid. 1H-NMR (DMSO-d6) δ 7.95(d, 1H), 7.85(d, 1H), 7.77-7.80(m, 1H), 7.44(s, 4H), 5.44(s, 2H), 4.58-4.61(m, 1H), 4.06(t, 2H), 3.59(t, 2H), 3.43-3.46(m, 4H), 3.29(s, 3). LCMS retention time 3.070 min; LCMS MH+ 573.

reactant | 8-(4-chloro-3-(trifluoromethyl)phenoxy)-7-(4-chlorobenzyl)-3-methyl-1-(2-(2-(tetrahydro-2H-pyran-2-yloxy)ethoxy)ethyl)-1H-purine-2,6(3H,7H)-dione | 0.15 mmol, 100 mg | ClC1=C(C=C(OC2=NC=3N(C(N(C(C3N2CC2=CC=C(C=C2)Cl)=O)CCOCCOC2OCCCC2)=O)C)C=C1)C(F)(F)F | C29H29Cl2F3N4O6
reactant | acetyl chloride | 0.2 mL | C(C)(=O)Cl | C2H3ClO
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 8-(4-chloro-3-(trifluoromethyl)phenoxy)-7-(4-chlorobenzyl)-1-(2-(2-hydroxyethoxy)ethyl)-3-methyl-1H-purine-2,6(3H,7H)-dione | 37 mg, 43.1% yield | ClC1=C(C=C(OC2=NC=3N(C(N(C(C3N2CC2=CC=C(C=C2)Cl)=O)CCOCCO)=O)C)C=C1)C(F)(F)F | C24H21Cl2F3N4O5
